US09062015B2
2-Bromo-6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridine
200 mg (0.84 mmol) of 2,6-dibromopyridine and 265 mg (0.84 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane are dissolved in 6 ml of 2M sodium carbonate solution and in 2.5 ml of dimethoxyethane. The reaction mixture is degassed a number of times, and 49 mg (0.04 mmol) of tetrakis(triphenylphosphine)palladium are added under nitrogen atmosphere, the mixture is stirred at 80° C. for 16 h and subsequently irradiated in the microwave for 30 min. The reaction mixture is evaporated, and saturated sodium hydrogencarbonate solution is added. This mixture is extracted three times with ethyl acetate and three times with dichloromethane, the combined organic phases are dried over Na2SO4 and evaporated. The crude product is reacted further without further purification.

reactant | 2,6-dibromopyridine | 0.84 mmol, 200 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.84 mmol, 265 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
solvent | sodium carbonate | 2M, 6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 2.5 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 49 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridine | BrC1=NC(=CC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C19H22BrN
